US07247734B2
Synthesis of 6-Chloro-3-[3-(2-fluoro-ethoxy)-phenyl]-7-hydroxy-chromen-4-one
This compounds was synthesised in the same manner as described above. 4-Chlororesorcinol (0.36 g, 2.5 mmol), [3-(2-Fluoro-ethoxy)-phenyl]-acetic acid (0.5 g, 2.5 mmol), BF3Et2O (5 ml), PCl5 (0.79 g, 3.79 mmol), DMF (8 ml and 5 ml). 6-Chloro-3-[3-(2-fluoro-ethoxy)-phenyl]-7-hydroxy-chromen-4-one precipitated out as a white solid (0.49 g, 58.6%). This was taken onto the next stage without further purification. Rf 0.6 ethyl acetate/hexane (70/30)].

reactant | 4-Chlororesorcinol | 2.5 mmol, 0.36 g | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | [3-(2-Fluoro-ethoxy)-phenyl]-acetic acid | 2.5 mmol, 0.5 g | FCCOC=1C=C(C=CC1)CC(=O)O | C10H11FO3
reactant | PCl5 | 3.79 mmol, 0.79 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-3-[3-(2-fluoro-ethoxy)-phenyl]-7-hydroxy-chromen-4-one | ClC=1C=C2C(C(=COC2=CC1O)C1=CC(=CC=C1)OCCF)=O | C17H12ClFO4
